US08217043B2
g) {[4-Hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 4-hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester (1.0 eq.) and sodium glycinate (5 eq.). ESI (m/z): 486 (M+H)+.

reactant | 4-hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 1.0 eq. | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=C(C=C1)C(F)(F)F)C=C(C2)C2=CC=CC=C2)O | C23H17F3N2O4
reactant | sodium glycinate | 5 eq. | NCC(=O)[O-].[Na+]
product | {[4-Hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid | OC=1C=2N(N(C(C1C(=O)NCC(=O)O)=O)CC1=CC=C(C=C1)C(F)(F)F)C=C(C2)C2=CC=CC=C2 | C24H18F3N3O5
